US06784192B2
1-[(5-Chloro-2-methoxy-3-pyridinyl)methyl]-4-[2-(cyclohexylmethyloxy)phenoxymethyl]piperidine
150 mg of 5-chloro-2-methoxy-3-pyridinecarboxaldehyde and 291 mg of 4-[2-(cyclohexylmethyloxy)phenoxymethyl]piperidine were dissolved in 5 ml of 1,2-dichloroethane. To the mixture were added 0.06 ml of acetic acid and 214 mg of sodium triacetoxyborohydride, followed by stirring at room temperature overnight. An aqueous saturated sodium bicarbonate was added to the reaction solution, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to give 285 mg of the title compound as a pale yellow oil.

reactant | 5-chloro-2-methoxy-3-pyridinecarboxaldehyde | 150 mg | ClC=1C=C(C(=NC1)OC)C=O | C7H6ClNO2
reactant | 4-[2-(cyclohexylmethyloxy)phenoxymethyl]piperidine | 291 mg | C1(CCCCC1)COC1=C(OCC2CCNCC2)C=CC=C1 | C19H29NO2
reactant | sodium triacetoxyborohydride | 214 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
product | 1-[(5-Chloro-2-methoxy-3-pyridinyl)methyl]-4-[2-(cyclohexylmethyloxy)phenoxymethyl]piperidine | 285 mg | ClC=1C=C(C(=NC1)OC)CN1CCC(CC1)COC1=C(C=CC=C1)OCC1CCCCC1 | C26H35ClN2O3
